US07541372B2
b) 4-{6-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-morpholine
A mixture of 5-bromo-2-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine (200 mg, 0.52 mmol), morpholine (455 μL, 5.22 mmol) and tetrabutylammonium iodide (41 mg, 0.10 mmol) was irradiated in the microwave for 1.5 h at 160° C. After cooling to ambient temperature the resulting suspension was diluted with ethyl acetate (15 mL) and stirred for 15 min at this temperature. Filtering off and washing with water (2 mL) and with ethyl acetate (1 mL) afforded the title compound (95 mg, 47%) which was obtained as a light brown solid. MS: m/e=390.3 [M+H]+.

reactant | 5-bromo-2-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 0.52 mmol, 200 mg | BrC=1C=CC(=NC1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11BrN4O2
reactant | morpholine | 5.22 mmol, 455 μL | N1CCOCC1 | C4H9NO
catalyst | tetrabutylammonium iodide | 0.10 mmol, 41 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 4-{6-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-morpholine | 95 mg, 47% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C=N1)N1CCOCC1 | C21H19N5O3
